### PR TITLE
feat(Order/WellFounded): `WellFounded` on subtype iff the relation restricted on the subtype is `WellFounded`

### PR DESCRIPTION
**Pull request by Hagb**
Equivalence between `WellFounded` on a subtype and `WellFounded` on the underlying type with the relation restricted on the subtype.

---

(It was a lemma for #39781, which has been closed since there would be a better proof.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/WellFounded.lean [hunk 1]
```diff
@@ -82,6 +82,19 @@ instance (r : β → β → Prop) (f : α → β) [IsWellFounded β r] :
     IsWellFounded α (r.onFun f) where
   wf := IsWellFounded.wf.onFun
 
+theorem subtype_iff {p : α → Prop} :
```
Comment (SnirBroshi) [inline Mathlib/Order/WellFounded.lean:85]: Can you use this to simplify [`Set.wellFoundedOn_iff`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/WellFoundedSet.html#Set.wellFoundedOn_iff)? It looks defeq (with `p := (· ∈ s)`)

Comment (Hagb) [reply Mathlib/Order/WellFounded.lean:85]: Yes, thanks. It is submitted on #39806.

File: Mathlib/Order/WellFounded.lean [hunk 2]
```diff
@@ -82,6 +82,19 @@ instance (r : β → β → Prop) (f : α → β) [IsWellFounded β r] :
...
+    WellFounded (α := Subtype p) (Function.onFun r Subtype.val) ↔
+      WellFounded (fun a b ↦ r a b ∧ p a ∧ p b) := by
+  simp_rw [wellFounded_iff_isEmpty_descending_chain, ← not_iff_not (a := IsEmpty _),
+    not_isEmpty_iff, nonempty_subtype]
+  refine ⟨fun ⟨f, ha⟩ ↦ ⟨(f ·), ?_⟩, fun ⟨f, ha⟩ ↦ ⟨(⟨f ·, ?_⟩), ?_⟩⟩ <;> grind
+
+theorem subtype_iff' {p : α → Prop} {r : Subtype p → Subtype p → Prop} :
+    WellFounded r ↔ WellFounded (fun a b ↦ ∃ ha : p a, ∃ hb : p b, r ⟨a, ha⟩ ⟨b, hb⟩) := by
```
Comment (plp127) [inline Mathlib/Order/WellFounded.lean:93]: Can you state this one with `Relation.Map`?

Comment (Hagb) [reply Mathlib/Order/WellFounded.lean:93]: Thank you! It has been stated as
```lean4
theorem subtype_iff_subtype_map_val {p : α → Prop} {r : Subtype p → Subtype p → Prop} :
    WellFounded r ↔ WellFounded (Relation.Map r Subtype.val Subtype.val)
```
in c81e5c5d9030defdf9a380ab55be7696a6341728 with the old `subtype_iff'` reserved.

File: Mathlib/Order/WellFounded.lean [hunk 3]
```diff
@@ -82,6 +82,24 @@ instance (r : β → β → Prop) (f : α → β) [IsWellFounded β r] :
...
+  simp_rw [wellFounded_iff_isEmpty_descending_chain, ← not_iff_not (a := IsEmpty _),
+    not_isEmpty_iff, nonempty_subtype]
+  refine ⟨fun ⟨f, ha⟩ ↦ ⟨(f ·), ?_⟩, fun ⟨f, ha⟩ ↦ ⟨(⟨f ·, (ha _).snd.fst⟩), ?_⟩⟩ <;> grind
+
+theorem subtype_iff_subtype_map_val {p : α → Prop} {r : Subtype p → Subtype p → Prop} :
+    WellFounded r ↔ WellFounded (Relation.Map r Subtype.val Subtype.val) := by
```
Comment (plp127) [inline Mathlib/Order/WellFounded.lean:99]: Can you generalize this to an arbitrary injective map (instead of just `Subtype.val`)?
